US08048897B2
(2) Synthesis of 2-(4-Trifluoromethoxybenzyl)phenol
A 20% palladium hydroxide catalyst (150 mg) was added to a solution of (2-benzyloxyphenyl)-(4-trifluoromethoxyphenyl)methanol (1.5 g, 4.01 mmol) in methanol (27 mL) and furthermore 36% HCl (0.33 mL) was added thereto. The mixture solution was stirred under a hydrogen atmosphere for 16 hours, and then cooled to 0° C., potassium carbonate (0.54 g) added thereto and the mixture was stirred for 30 minutes, and then the catalyst was removed by filtration. The solvent was distilled under reduced pressure and the obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:10)] to obtain a white solid title compound (1.05 g, 97%).

reactant | (2-benzyloxyphenyl)-(4-trifluoromethoxyphenyl)methanol | 4.01 mmol, 1.5 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(O)C1=CC=C(C=C1)OC(F)(F)F | C21H17F3O3
reactant | HCl | 0.33 mL | Cl | ClH
reactant | potassium carbonate | 0.54 g | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium hydroxide | 150 mg | [OH-].[Pd+2].[OH-]
solvent | methanol | 27 mL | CO | CH4O
product | 2-(4-Trifluoromethoxybenzyl)phenol | 1.05 g, 97% | FC(OC1=CC=C(CC2=C(C=CC=C2)O)C=C1)(F)F | C14H11F3O2
